US06274577B1
2-Azido-4-nitrobenzyl alcohol
To a suspension of 2-amino-4-nitrobenzyl alcohol [(0.5 g) Bio. Org. Med. Chem (1995) 3, 2, 129] in concentrated hydrochloric acid/H2O (15 ml of 1:1 v:v) at −50 to 0° was added a solution of sodium nitrite (0.24 g) in water (2.5 ml) dropwise so the temperature did not rise above 0°. The mixture was stirred for 10 min, and added dropwise to a cooled (0°) solution of sodium acetate (3.0 g) and sodium azide (0.2 g) in water (10 ml). The resulting solid was filtered, washed with water and dried on the sinter to give the title compound as a pale brown powder (0.45 g, 78%). δH (d6 DMSO): 4.51 (2H, s), 5.52 (1H, br), 7.72 (1H, d, J 8.4 Hz), 7.99 (1H, d, J 2.2 Hz) and 8.04 (1H, dd, J 2.2, 8.4 Hz) .

reactant | 2-amino-4-nitrobenzyl alcohol | 0.5 g | NC1=C(CO)C=CC(=C1)[N+](=O)[O-] | C7H8N2O3
reactant | sodium nitrite | 0.24 g | N(=O)[O-].[Na+]
reactant | sodium acetate | 3.0 g | C(C)(=O)[O-].[Na+]
reactant | sodium azide | 0.2 g | [N-]=[N+]=[N-].[Na+]
solvent | hydrochloric acid H2O | 15 ml | Cl.O
solvent | water | 2.5 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 2-Azido-4-nitrobenzyl alcohol | 0.45 g, 78% | N(=[N+]=[N-])C1=C(CO)C=CC(=C1)[N+](=O)[O-] | C7H6N4O3
